US06844367B1
A solution of 2-amino-5-bromopyridine (0.200 g, 1.16 mmol 1.0 equiv), in 5 mls of methylene chloride, under argon, was treated with trimethylaluminum (0.312 mL, 2.0 N in hexanes, 4.0 equiv) at room temperature for 30 min. To the solution was added ethyl-3-methylpyrazole-5-carboxylate (0.356 g, 2.0 equiv). After 4 hrs, the volatile was evaporated, and the residue was redissolved into EtOAc, washed with 0.5N HCl, 0.2 N K2CO3, and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered, evaporated and purified via flash chromatography on silica gel to give N-(5-bromo-2-pyridinyl)-(3-methyl)5-pyrazolecarboxamide (0.160 g, 49%). MS found for C10H9BrN4O (M+H)+: 281, 283. Step 2: A solution of N-(5-bromo-2-pyridinyl)-(3-methyl)5-pyrazolecarboxamide (0.060 g, 0.213 mmol, 1.0 equiv) in 2 mL of acetonitrile was treated with triphosgene (0.063 g, 1.0 equiv) at room temperature for 5 min under argon. To the solution was added 4-[(2-t-butylaminosulfonyl)phenyl]phenylamine (0.071 g, 1.1 equiv) After 1 hr, the volatile was evaporated and the residue was redissolved into EtOAc, washed with 0.5N HCl, 0.2 N K2CO3, and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered, evaporated, purified via flash chromatography on silica gel and then reacted in 2 mL of trifluoroacetic acid for 16 hrs at room temperature. TFA was then evaporated and the residue was redissolved into EtOAc, washed with 0.5N HCl, 0.2 N K2CO3, and saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered, evaporated, and triturated with diethyl ether to give N-(5-bromo-2-pyridinyl)-(2-4-[(2-aminosulfonyl)phenyl]phenylaminocarbonyl)5-methyl-pyrazolcarboxamide (0.0024 g, 2%). MS found for C23H19BrN6O4S (M+H)+: 555, 557.

reactant | 2-amino-5-bromopyridine | 1.16 mmol, 0.200 g, 1.0 equiv | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | trimethylaluminum | 2.0 N, 0.312 mL, 4.0 equiv | C[Al](C)C
reactant | ethyl-3-methylpyrazole-5-carboxylate | 0.356 g, 2.0 equiv | C(C)OC(=O)C1=CC(=NN1)C | C7H10N2O2
solvent | methylene chloride | 5 mls | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-2-pyridinyl)-(3-methyl)5-pyrazolecarboxamide | 0.160 g, 49% | BrC=1C=CC(=NC1)NC(=O)C1=CC(=NN1)C | C10H9BrN4O
